US06117870
2.74 g (16.5 mmol) of 3,4-methylenedioxybenzoic acid was dissolved in anhydrous dichloromethane and then was ice cooled. 4.62 ml (33.0 mmol) of triethylamine, 2.53 g (16.5 mmol) of 1-hydroxybenzotriazole hydrate, 3.57 g (17.3 mmol) of N,N'-dicyclohexylcarbodiimide and 3.20 g (16.5 mmol) of ethyl 1-aminocyclohexanecarboxylate hydrochloride were successively added to the above reaction mixture and were stirred for 18 hours gradually rising the temperature up to the room temperature. The reaction mixture was concentrated under reduced pressure and was dissolved in ethyleacetate, and the insoluble components were removed therefrom by filtration. After the ethyl acetate solution was washed successively with 1N-hydrochloric acid, saturated brine, aqueous solution of saturated sodium hydrogen carbonate and saturated brine, the resultant organic layer was dried over anhydrous sodium sulfate, and concentrated under reduced pressure, whereby 5.21 g of ethyl 1-[N-(3,4-methylenedioxyphenylcarbonyl)amino]cyclohexanecarboxylate was obtained.

reactant | 3,4-methylenedioxybenzoic acid | 16.5 mmol, 2.74 g | C1OC=2C=C(C(=O)O)C=CC2O1 | C8H6O4
reactant | triethylamine | 33.0 mmol, 4.62 ml | C(C)N(CC)CC | C6H15N
reactant | 1-hydroxybenzotriazole hydrate | 16.5 mmol, 2.53 g | O.ON1N=NC2=C1C=CC=C2
reactant | N,N'-dicyclohexylcarbodiimide | 17.3 mmol, 3.57 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | ethyl 1-aminocyclohexanecarboxylate hydrochloride | 16.5 mmol, 3.20 g | Cl.NC1(CCCCC1)C(=O)OCC
solvent | dichloromethane | ClCCl | CH2Cl2
product | ethyl 1-[N-(3,4-methylenedioxyphenylcarbonyl)amino]cyclohexanecarboxylate | 5.21 g | C1OC=2C=C(C=CC2O1)C(=O)NC1(CCCCC1)C(=O)OCC | C17H21NO5
